US03979397
57.5 g. (0.25 moles) of 1-cyanomethylene-1,2,3,4-tetrahydro-6,7-dimethoxy-isoquinoline, 21.5 g. (0.255 moles) of sodium hydrocarbonate and 375 ml. of methanol are introduced into a 2 l. flask equipped with a stirrer, reflux condenser, thermometer and addition funnel. The mixture is heated to boiling with stirring, thereafter it is cooled to 60°C, and 40 g. (0.25 moles) of bromine are added dropwise to the solution within 20 minutes. During the addition carbon dioxide evolves and leaves the system. Thereafter the solution is boiled, and a solution of 40 g. (about 0.4 moles) of potassium rhodanide in 300 ml. of methanol is added. The separated precipitate temporarily dissolves, thereafter a loose, voluminous precipitate separates. The mixture is boiled for 1.5 hours, thereafter left to stand in a refrigerator overnight. The precipitate is filtered off, suspended in 500 ml. of water, and 20 ml. of 1 n sodium hydroxide solution are added to the suspension. The precipitate is filtered again, and washed with 3×100 ml. of water. 62.3 g. (86.8 %) of 1-cyano-3-imino-3,4,5,6-tetrahydro-8,9-dimethoxy-1,3-thiazolo[4,3-a]isoquinoline are obtained; m.p.: 229°-230°C (under decomposition).

reactant | 1-cyanomethylene-1,2,3,4-tetrahydro-6,7-dimethoxy-isoquinoline | 0.25 moles | C(#N)C=C1NCCC2=CC(=C(C=C12)OC)OC | C13H14N2O2
reactant | sodium hydrocarbonate | 0.255 moles | C(=O)(O)[O-].[Na+]
reactant | bromine | 0.25 moles | BrBr | Br2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | potassium rhodanide | about 0.4 moles | C(#N)[S-].[K+]
solvent | methanol | CO | CH4O
product | 1-cyano-3-imino-3,4,5,6-tetrahydro-8,9-dimethoxy-1,3-thiazolo[4,3-a]isoquinoline | 86.8 % | C(#N)C=1SC(N2C1C1=CC(=C(C=C1CC2)OC)OC)=N | C14H13N3O2S
